US05864039
4-Aminomethyl-1-(6-(2-hydroxyphenyl)-6-oxohexyl)piperidine dihydrochloride (1.54 g) as a starting compound, 4-amino-5-chloro-2-methoxybenzoic acid (0.82 g), triethylamine (1.7 ml), 1-hydroxybenzotriazole (0.58 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (0.82 g) were reacted and purified in the same manner as in Example 270 to give 1.15 g of 4-amino-5-chloro-2-methoxy-N-((1-(6-(2-hydroxyphenyl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide hydrochloride, m.p. 143°-145° C.

reactant | 4-Aminomethyl-1-(6-(2-hydroxyphenyl)-6-oxohexyl)piperidine dihydrochloride | 1.54 g | Cl.Cl.NCC1CCN(CC1)CCCCCC(=O)C1=C(C=CC=C1)O
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.82 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | 1-hydroxybenzotriazole | 0.58 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.82 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
product | 4-amino-5-chloro-2-methoxy-N-((1-(6-(2-hydroxyphenyl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide hydrochloride | 1.15 g | Cl.NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C2=C(C=CC=C2)O)C=C1Cl)OC | InChI=1S/C26H34ClN3O4.ClH/c1-34-25-16-22(28)21(27)15-20(25)26(33)29-17-18-10-13-30(14-11-18)12-6-2-3-8-23(31)19-7-4-5-9-24(19)32;/h4-5,7,9,15-16,18,32H,2-3,6,8,10-14,17,28H2,1H3,(H,29,33);1H
